US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
Under argon gas, 7-[4-(4-chlorobenzoyl)benzyl]-4-methoxy-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine (0.615 g) was dissolved in dioxane (6 ml) followed by addition of 4,41-thiobis(6-t-butyl-m-cresol) (7 mg). Then, 0.5N-HCl (1.2 ml) was added and the mixture was stirred at 105° C. for 36 hours. Thereafter, 0.5N-HCl (1.2 ml) was added again and the mixture was further stirred at the same temperature as above for 24 hours. After cooling to room temperature, the precipitate was collected by filtration, washed with methanol and ether, and dried to provide the title compound (0.405 g) 1H-NMR (DMSO-d6) δ: 2.53(3H,s), 5.42(2H,s), 6.44(1H,d,J=3.4Hz), 7.15(1H,d,J=3.4Hz), 7.45(2H,d,J=8.OHz), 7.60(2H,d,J=8.4Hz), 7.72(2H,d,J=8.OHz), 7.73(2H,d,J=8.4Hz), 12.18(1H,s).

reactant | 7-[4-(4-chlorobenzoyl)benzyl]-4-methoxy-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine | 0.615 g | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=C(N=C4OC)SC)C=C2)C=C1 | C22H18ClN3O2S
reactant | HCl | 1.2 ml | Cl | ClH
reactant | HCl | 1.2 ml | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 7-[4-(4-Chlorobenzoyl)benzyl]-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 0.405 g | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=C(NC4=O)SC)C=C2)C=C1 | C21H16ClN3O2S
